US05403930
2-Hydroxy-5-[[3-[(3-methyl-2-pyridinylamino)sulfonyl]-phenyl]-ethynyl]benzoic acid
Ethyl 2-hydroxy-5-[[3-[(3-methyl-2-pyridinylamino)sulfonyl]-phenyl]ethynyl]benzoate (4 g, 9.2 mmol) was added to a boiling solution of potassium hydroxide (6 g, 90 mmol) in water (100 ml). After 15 min ethanol (50 ml) was added and the solution acidified with hydrochloric acid. The product was collected by filtration and dried at 110 ° C. Yield 3.5 g, 93%.

reactant | Ethyl 2-hydroxy-5-[[3-[(3-methyl-2-pyridinylamino)sulfonyl]-phenyl]ethynyl]benzoate | 9.2 mmol, 4 g | OC1=C(C(=O)OCC)C=C(C=C1)C#CC1=CC(=CC=C1)S(=O)(=O)NC1=NC=CC=C1C | C23H20N2O5S
reactant | potassium hydroxide | 90 mmol, 6 g | [OH-].[K+]
reactant | ethanol | 50 ml | C(C)O | C2H6O
reactant | hydrochloric acid | Cl | ClH
solvent | water | 100 ml | O | H2O
product | 2-Hydroxy-5-[[3-[(3-methyl-2-pyridinylamino)sulfonyl]-phenyl]-ethynyl]benzoic acid | OC1=C(C(=O)O)C=C(C=C1)C#CC1=CC(=CC=C1)S(=O)(=O)NC1=NC=CC=C1C | C21H16N2O5S
